US08222416B2
A mixture of 1-benzenesulfonyl-2-{2-cyclopentyl-1-[4-(2-methoxy-ethanesulfonyl)-phenyl]-vinyl}-1H-pyrrolo[2,3-b]pyridine (1.3 g, 2.36 mmol) in ethanol (10 mL), tetrahydrofuran (20 mL) and an aqueous sodium hydroxide solution (10%, 6 mL) was heated at 50° C. for 5 h. The mixture was diluted with dichloromethane (150 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-vinyl}-1H-pyrrolo[2,3-b]pyridine (900 mg, 90%): LC/MS m/e calcd for C24H28N2O3S [M+H]+ 425.57, observed 425.4.

reactant | 1-benzenesulfonyl-2-{2-cyclopentyl-1-[4-(2-methoxy-ethanesulfonyl)-phenyl]-vinyl}-1H-pyrrolo[2,3-b]pyridine | 2.36 mmol, 1.3 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)CCOC | C29H30N2O5S2
reactant | sodium hydroxide | 6 mL | [OH-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-vinyl}-1H-pyrrolo[2,3-b]pyridine | 900 mg, 90% | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)CCOCC)C1=CC=2C(=NC=CC2)N1 | C24H28N2O3S
